US08022206B2
4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}thiophene-2-carbaldehyde
3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine (150.0 mg, 0.357 mmol), 2-formylthiophene-4-boronic acid (111 mg, 0.714 mmol), potassium carbonate (148 mg, 1.07 mmol), 1,4-dioxane (4.2 mL, 54 mmol), H2O (1.2 mL, 67 mmol) and (1,1′bis-(diphenylphosphino)ferrocene palladium dichloride (10 mg, 0.02 mmol) were mixed and heated at 80° C. overnight. The crude was worked up with DCM and H2O. Product was purified by prep-TLC in DCM/methanol system. MS (ES+): m/z 451.01/453.04 (100/73) [MH+]. HPLC: tR=0.93 min (HPLC-ACQUITY, Analytical). 1H NMR (400 MHz, DMSO-d6): δ 9.99 (d, J=1.3 Hz, 1H), 8.49 (s, 1H), 8.42-8.47 (m, 2H), 8.26 (s, 1H), 7.49-7.56 (m, 1H), 7.42-7.49 (m, 1H), 6.26 (q, J=6.7 Hz, 1H), 5.71 (s, 2H), 1.85 (d, J=6.8 Hz, 3H).

reactant | 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine | 0.357 mmol, 150.0 mg | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 2-formylthiophene-4-boronic acid | 0.714 mmol, 111 mg | C(=O)C=1SC=C(C1)B(O)O | C5H5BO3S
reactant | potassium carbonate | 1.07 mmol, 148 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 54 mmol, 4.2 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′bis-(diphenylphosphino)ferrocene palladium dichloride | 0.02 mmol, 10 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | H2O | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | H2O | 67 mmol, 1.2 mL | O | H2O
product | 4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}thiophene-2-carbaldehyde | NC1=C(C2=C(C=N1)C(=CO2)C=2C=C(SC2)C=O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C20H13Cl2FN2O3S
